US03952017
A solution containing 30 g. of 1-methyl-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene in 100 ml. of dry benzene is added dropwise with stirring at 20° C. to a mixture of 31.8 g. of ethyl chloroformate in 100 ml. of dry benzene. Subsequently, the mixture is vigorously boiled under reflux conditions for 20 hours. After cooling, the benzene solution is washed with water, dilute hydrochloric acid and once again with water, dried over sodium sulfate and evaporated. The 1-methyl-5-(3-methylcarbethoxyaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene obtained has a melting point of 157°-159° C. after recrystallization from ethanol.

reactant | 1-methyl-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)(O)CCCN(C)C | C21H25NO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-5-(3-methylcarbethoxyaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)(O)CCCNC(=O)OCCC | C23H27NO3
